US07402595B2
2-(benzo[1,3]dioxol-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3,6-dicarboxylic acid dimethyl ester
A mixture of 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (300 mg), palladium(II) acetate (7 mg), 1,1′-bis(diphenylphosphino)ferrocene (17 mg), triethylamine (0.22 ml), DMF (10 ml) and methanol (10 ml) was stirred at 100° C. for 6 hrs. under 5 atm carbon monoxide. The reaction mixture was concentrated, and water was added to the residue. The mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate) and the obtained crystals were washed with diisopropyl ether to give the title compound (250 mg).

reactant | 2-(benzo[1,3]dioxol-5-ylmethyl)-6-bromo-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 300 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC2=C(OCO2)C=C1 | C25H18BrNO5
reactant | triethylamine | 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | carbon monoxide | [C]=O | CO
reactant | methanol | 10 ml | CO | CH4O
catalyst | palladium(II) acetate | 7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 17 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-(benzo[1,3]dioxol-5-ylmethyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3,6-dicarboxylic acid dimethyl ester | 250 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(=O)OC)=O)CC1=CC2=C(OCO2)C=C1 | C27H21NO7
